US07119221B2
Under a N2 atmosphere at −60° C., a solution of butyl cyclopentanecarboxylate (prepared according to Payne, G. B.; Smith, C. W., J. Org. Chem., 1957, 22, 1680–1682, 40.2 g, 0.236 mol) and 1,5-dibromopentane (64 mL, 0.45 mol) in dry THF (400 mL) was added drop wise to a solution of LDA (2M in THF/heptane/ethylbenzene, 200 mL, 0.40 mol) in 30 min. After 3 h, the reaction mixture was allowed to reach rt in 30 min. Then the reaction mixture was poured out into ice-cold saturated aqueous NH4Cl (1 L). The organic layer was decanted and concentrated in vacuo to a smaller volume. The aqueous layer was extracted with Et2O (3×150 mL). The combined organic layers were washed with saturated aqueous NH4Cl (3×150 mL), brine (150 mL), dried (Na2SO4) and evaporated in vacuo. The remaining residue was purified by fractional distillation to give butyl 1-(5-bromo-pentyl)-cyclopentanecarboxylate (49.1 g, >90% pure by GC, 59%) as a bright yellow liquid. bp: T=123° C. (p=0.001 Torr). 1H NMR (CDCl3): δ=4.06 (t, J=6.6 Hz, 2H), 3.38 (t, J=6.9 Hz, 2H), 2.15–2.07 (m, 2H), 1.89–1.79 (quintet, J=7.1 Hz, 2H), 1.69–1.56 (m, 8H), 1.49–1.32 (m, 6H), 1.28–1.17 (m, 2H), 0.94 (t, J=7.4 Hz, 3H). 13C NMR (CDCl3): δ=177.7, 64.0, 54.0, 39.0, 36.0 (2×), 33.6, 32.5, 30.7, 28.5, 25.1, 24.8 (2×), 19.1, 13.6. HRMS calcd for C15H27BrO2 (M+): 318.1195, found: 318.1192.

reactant | butyl cyclopentanecarboxylate | 0.236 mol, 40.2 g | C1(CCCC1)C(=O)OCCCC | C10H18O2
reactant | 1,5-dibromopentane | 0.45 mol, 64 mL | BrCCCCCBr | C5H10Br2
reactant | LDA | 0.40 mol, 2M, 200 mL | [Li+].CC(C)[N-]C(C)C
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | butyl 1-(5-bromo-pentyl)-cyclopentanecarboxylate | 49.1 g | BrCCCCCC1(CCCC1)C(=O)OCCCC | C15H27BrO2
